Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Singulair
 
Attending: ___.
 
Chief Complaint:
Rectal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with past medical history
of Afib (on warfarin), HTN, HLD, hemorrhoids, diverticulosis, 
and
stroke, presenting with new BRBPR.

The patient reports that on the AM of ___, he had sudden onset,
one episode of BRBPR. He has never had this before. There were 
no
significant associated symptoms including no diarrhea, no
abdominal pain.

On arrival to the ED, he was noted to have Bright red blood per
rectum on exam. Vitals were stable. Hgb 12.5-> 14.6->13.6,
creatinine 1.5 (unknown baseline), trop negative x1, INR
6.3->4.8. He had no further episodes of bleeding. 

The ED spoke with GI who recommended monitoring and if bled
again, will consider scope. Also recommended reversal of INR 
with
Vitamin K.

patient received Vitamin K 2.5 mg x2 and his home meds.

Decision was made to admit to medicine for further monitoring.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
1. Seasonal allergies  
2. Moderate mitral regurgitation  
3. Left ventricular hypertrophy  
4. Atrial fibrillation (s/p failed cardioversion x 1), dx ___, 
not started on rate control until ___, unclear reasons
5. Hypertension  
6. Hyperlipidemia  
7. History of chronic vertigo  
8. Hemorrhoids  
9. Diverticulosis  
10. Colonic adenomas  
11. Depression  
12. Recurrent nephrolithiasis  
13. Sleep apnea  
14. History of EtOH abuse and marijuana abuse  
15. Chronic kidney disease.  

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

Family history is negative for sudden cardiac death, 
arrhythmias, or early CAD.
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: ___ 0821 Temp: 98.0 PO BP: 177/96 HR: 80 RR: 18 O2
sat: 97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: easy WOB, CTAB
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 12:11AM   WBC-8.4 RBC-3.61* HGB-12.5* HCT-37.4* 
MCV-104* MCH-34.6* MCHC-33.4 RDW-13.9 RDWSD-53.1*
___ 12:11AM   NEUTS-75.6* LYMPHS-16.4* MONOS-6.3 EOS-0.1* 
BASOS-0.5 IM ___ AbsNeut-6.34* AbsLymp-1.38 AbsMono-0.53 
AbsEos-0.01* AbsBaso-0.04
___ 12:11AM   PLT COUNT-127*
___ 12:11AM   ___ PTT-40.2* ___
___ 12:11AM   GLUCOSE-103* UREA N-31* CREAT-1.5* SODIUM-146 
POTASSIUM-3.8 CHLORIDE-108 TOTAL CO2-26 ANION GAP-12
___ 12:11AM   ALT(SGPT)-18 AST(SGOT)-20 ALK PHOS-38* TOT 
BILI-0.8
___ 12:11AM   LIPASE-27
___ 12:11AM   cTropnT-<0.01
___ 12:11AM   ALBUMIN-3.5

INTERVAL LABS:
___ 06:05AM BLOOD WBC-8.3 RBC-4.21* Hgb-14.6 Hct-43.7 
MCV-104* MCH-34.7* MCHC-33.4 RDW-14.0 RDWSD-53.3* Plt ___
___ 11:20AM BLOOD WBC-6.9 RBC-3.93* Hgb-13.6* Hct-40.7 
MCV-104* MCH-34.6* MCHC-33.4 RDW-14.1 RDWSD-54.1* Plt ___
___ 05:54AM BLOOD WBC-6.4 RBC-4.01* Hgb-13.7 Hct-41.4 
MCV-103* MCH-34.2* MCHC-33.1 RDW-13.6 RDWSD-51.6* Plt ___

___ 11:20AM BLOOD ___
___ 01:05PM BLOOD ___
 
Brief Hospital Course:
___ yo M PMHx Afib (on warfarin), HTN, HLD, hemorrhoids, 
diverticulosis, and stroke who presented with bright red blood 
per rectum.

ACUTE/ACTIVE PROBLEMS:
# Rectal bleeding: 
Patient reported constipation, hard stools, and needing to use 
an enema at home prior to admission.  Rectal bleeding started 
after using the enema at home.  His hemoglobin at admission was 
12.5 (last checked in ___ at 15.6).  He was given 
vitamin K.  GI was consulted.  His hemoglobin remained stable 
throughout his hospitalization (discharge value 13.6) and he had 
no further episodes of bleeding.  He had a recent colonoscopy ___ 
years ago) putting malignancy lower on the differential.  After 
discussion with GI and further hemoglobin monitoring, the 
patient was not thought to require inpatient colonoscopy. The 
most likely etiology of the patient's rectal bleeding was 
hemorrhoidal vs. local trauma from enema. He was predisposed to 
bleed given INR elevated at 6 at time of admission.  He was 
encouraged to eat a high fiber diet, stay well hydrated, and 
start miralax daily.  He was encouraged to discuss outpatient 
colonoscopy with his PCP ___ ___ months.   

# Afib on warfarin
# Supratherapeutic INR: 
INR 6.3 at admission.  Given two doses of vitamin K.  INR 3 at 
discharge.  Given patient's stable Hb and resolution of 
bleeding, he was restarted on Coumadin.  He follows with the 
___ clinic.  He will have an INR check the day 
after discharge.

#Ear infection; 
Finishes course of amox-clav on ___. Continue 
Neomycin-Polymyxin ear drops

# BPH
Continue finasteride

# Allergic rhinitis
Continue Flonase

# HLD: continue pravastatin.
# Asthma: Continue daily prednisone. Not on albuterol inhaler as 
it doesn't help

TRANSITIONAL ISSUES:
[] INR supratherapeutic at admission.  Discharge INR 3.  ___ 
require closer monitoring 
[] Discuss outpatient colonoscopy in ___ months

> 30 minutes spent in discharge planning and counseling
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. PredniSONE 10 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Warfarin 2.5 mg PO DAILY16 
7. Pravastatin 40 mg PO QPM 
8. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
10. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
11. Neomycin-Polymyxin-HC Otic Susp 3 DROP LEFT EAR BID 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
3.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 dose by 
mouth twice a day Disp #*60 Packet Refills:*0 
4.  Psyllium Powder 1 PKT PO DAILY 
RX *psyllium husk (aspartame) [Metamucil Fiber Singles] 3.4 gram 
1 packet(s) by mouth once a day Disp #*30 Packet Refills:*0 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
7.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  
8.  Finasteride 5 mg PO DAILY  
9.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
10.  Losartan Potassium 50 mg PO DAILY  
11.  Metoprolol Succinate XL 25 mg PO DAILY  
12.  Neomycin-Polymyxin-HC Otic Susp 3 DROP LEFT EAR BID  
13.  Pravastatin 40 mg PO QPM  
14.  PredniSONE 10 mg PO DAILY  
15.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hematochezia
Suspected hemorrhoidal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with bleeding from the rectum.  We 
suspect this bleeding was from a hemorrhoid.  Your blood counts 
remained stable and your bleeding resolved.  To reduce the risk 
of this type of bleeding before, please ensure you have soft 
bowel movements every day.  This can be accomplished by eating a 
high fiber diet, or taking stool softeners and laxatives as 
needed.

You were also found to have an elevated INR.  You were given 
vitamin K to reverse the INR.  Since your bleeding stopped and 
was mild, you are safe to resume your Coumadin.  This will need 
to be followed closely to ensure it does not get too high again 
in the future.

It was a pleasure taking care of you at ___!
-- Your medical team
 
Followup Instructions:
___